US08686022B2
7-formyl-1-methyl-1H-indole-2-carboxylic acid(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-amide
1.45 g 7-formyl-1-methyl-1H-indole-2-carboxylic acid (salt with N-methyl-morpholine) are dissolved in 8 ml N,N-dimethylformamide and combined with 2.72 g O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium-hexafluorophosphate (HATU), 2.45 ml N,N-diisopropyl-ethylamine (DIEA) as well as 324 mg 1-hydroxy-7-azabenzotriazole (HOAT). The mixture is left for 15 minutes at ambient temperature with stirring and then 1.47 g N-(3-amino-5-tert-butyl-2-methoxy-phenyl)-methanesulphonamide hydrochloride are added. The reaction is heated to 50° C. for 12 hours and then divided between water and ethyl acetate. The organic phase is washed successively with 1 N hydrochloric acid, water and saturated aqueous sodium chloride solution and dried on magnesium sulphate. After elimination of the solvents in vacuo the residue is chromatographed on silica gel with cyclohexane/ethyl acetate (70:30 to 20:80).

reactant | 7-formyl-1-methyl-1H-indole-2-carboxylic acid | 1.45 g | C(=O)C=1C=CC=C2C=C(N(C12)C)C(=O)O | C11H9NO3
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 2.72 g | N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropyl-ethylamine | 2.45 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-hydroxy-7-azabenzotriazole | 324 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N-(3-amino-5-tert-butyl-2-methoxy-phenyl)-methanesulphonamide hydrochloride | 1.47 g | Cl.NC=1C(=C(C=C(C1)C(C)(C)C)NS(=O)(=O)C)OC
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 7-formyl-1-methyl-1H-indole-2-carboxylic acid(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-amide | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1N(C2=C(C=CC=C2C1)C=O)C)OC)NS(=O)(=O)C | C23H27N3O5S
